US04209621
7-(o-Trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 1.68 g. of 3-amino-1,2,4-triazole and 4.86 g. of 3-dimethylamino-2'-trifluoromethylacrylophenone in 25 ml. of glacial acetic acid refluxed for 16 hours. The resulting mixture is worked up as described in Example 54 to yield the product of the Example, m.p. 149°-151° C.

reactant | 3-amino-1,2,4-triazole | NC1=NNC=N1 | C2H4N4
reactant | 3-dimethylamino-2'-trifluoromethylacrylophenone | CN(C=CC(=O)C1=C(C=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(o-Trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine | FC(C1=C(C=CC=C1)C1=CC=NC=2N1N=CN2)(F)F | C12H7F3N4
